US04714702
4.0 g of N-(2-fluoroacetamido-5-nitrobenzoyl)-2-methyl-4-methoxyaniline, 3.5 g of boron trifluoride etherate and 30 ml of acetic acid are treated in the same manner as described in Example 1-(2)l, whereby 3.3 g of 2-fluoromethyl-3-(2-methyl-4-methoxyphenyl)-6-nitro-4(3H)-quinazolinone are obtained as yellow prisms.

reactant | N-(2-fluoroacetamido-5-nitrobenzoyl)-2-methyl-4-methoxyaniline | 4.0 g | FCC(=O)NC1=C(C(=O)NC2=C(C=C(C=C2)OC)C)C=C(C=C1)[N+](=O)[O-] | C17H16FN3O5
reactant | boron trifluoride etherate | 3.5 g | B(F)(F)F.CCOCC
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-fluoromethyl-3-(2-methyl-4-methoxyphenyl)-6-nitro-4(3H)-quinazolinone | 3.3 g | FCC1=NC2=CC=C(C=C2C(N1C1=C(C=C(C=C1)OC)C)=O)[N+](=O)[O-] | C17H14FN3O4
